* NMOS Transistors (name, drain, gate, source, body)
M_MB45  6 1 6 6 NMOS
M_MB35  6 1 6 6 NMOS
M_MB45' 6 1 6 6 NMOS
M_MB41  8 1 2 2 NMOS
M_MB42  9 1 2 2 NMOS
M_MB43  8 1 3 3 NMOS
M_MB44  5 1 3 3 NMOS
M_MB31  2 10 3 3 NMOS
M_MB32  2 10 3 3 NMOS
M_MB33  3 11 3 3 NMOS
M_MB34  3 11 3 3 NMOS
M_MR2   2 22 2 2 NMOS
M_MR4   2 22 2 2 NMOS
M_MR1   2 26 1 1 NMOS
M_MR3   2 26 1 1 NMOS
M_MC1   3 26 2 2 NMOS
M_MC2   3 26 2 2 NMOS
M_MC3   3 26 2 2 NMOS
? Missing component
M_MC5   4 27 4 4 NMOS
M_MC6   4 27 4 4 NMOS
* Voltage Sources (name, positive, negative, value)
V_DD   8 0 DC 1.8
V_SS   0 4 DC 0
V_BIAS5 1 0 DC 1.2
V_BIAS4 2 0 DC 1.2
